reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8]>>[O:1]=[C:2](/[C:7](=[C:6]1\[N:3]([H:9])[C:4]([H:10])([H:11])[C:5]1([H:12])[H:13])[H:14])[H:8],78.6395768374736
[N:1](=[C:2]1/[C:3]([H:8])=[C:4]([H:9])[C:5]([H:10])([H:11])[O:6]1)\[H:7]>>[N:1](=[C:2]1/[C:3]([H:8])([H:9])[C:4][C:5]([H:10])([H:11])[O:6]1)\[H:7],69.1585805699113
[C:1]([C:2](=[O:3])[H:8])([N:6]([C:5](=[O:4])[H:10])[H:11])([H:7])[H:9]>>[C:1]([C:2](=[O:3])[O:4]/[C:5](=[N:6]/[H:11])[H:10])([H:7])([H:8])[H:9],104.32463817437771
[C:1](=[C:2]1[C:3]([H:8])([H:9])[C@@:4]1([C:5]#[C:6][H:12])[H:11])([H:7])[H:10]>>[C:1](#[C:2][C:3]([C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7],87.94955208033689
[C:1]([C:2]([C:3]([O:4][H:13])=[C:5]([H:14])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9].[O:6]([H:12])[H:16]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]([O:6][H:16])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],71.50760162288255
[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[N:6])[H:8])[H:7]>>[C-:3]#[O+:4].[O:1]([C:2](=[C:5]=[N:6][H:9])[H:8])[H:7],52.4679357239511
[C:1]([O:2][C:3](=[C:4]([H:11])[H:13])[C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:8])([H:9])[H:10].[H:12][H:14]>>[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6](=[O:7])[H:17])([H:8])([H:9])[H:10],89.55993096241819
[N:1]1([H:7])[C:2]([H:8])=[O+:3][C:4]([H:9])([H:10])[C:5]([H:11])=[C-:6]1>>[N:1](=[C:2](/[O:3][C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])\[H:7],20.758577414846403
[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([O:6][C:5](=[C:4]([H:13])[H:14])[N:7]([H:15])[H:16])[H:11])([H:8])([H:9])[H:10],86.24939202087299
[C:1]([C:2]([C:4](=[O+:5][C-:3]([H:10])[H:12])[H:13])([H:9])[H:11])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[O:5])[H:13])[H:9])([H:6])([H:7])[H:8],33.2544594517496
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[C:6]=[N:7][C:4]([O:5][H:16])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([O:5][H:16])([H:14])[H:15])[C:6]#[N:7])([H:8])([H:9])[H:10],57.110834315105706
[N:1]([C-:2]=[O+:3][C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])([H:7])[H:8]>>[N:1](=[C:2](/[O:3][C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])[H:8])\[H:7],47.2667174557062
[C:1]([C@@:2]([O:3][H:11])([C:4]#[C:5][H:12])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([C:4]#[C:5][H:12])[C:6]([O:3][H:11])=[N:7]1)([H:8])([H:9])[H:10],79.55788638796079
[N:1](=[C:2]=[C:3]([C:4]([C:5](=[O:6])[H:10])([H:9])[H:11])[H:8])[H:7]>>[N:1](=[C:2]1/[C:3]([H:8])=[C:4]([H:9])[C:5]([H:10])([H:11])[O:6]1)\[H:7],39.1797451387599
[C:1](=[C:2]([C:3]([C:4]([C:5]([H:15])([H:16])[H:17])([C:6]([H:18])([H:19])[H:20])[H:14])([H:12])[H:13])[H:11])([H:7])[H:9].[H:8][H:10]>>[C:1]([C:2]([C:3]([C:4]([C:5]([H:15])([H:16])[H:17])([C:6]([H:18])([H:19])[H:20])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],83.18635964841161
[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@@:4]3([H:13])[O:5][C@:6]1([H:14])[C@@:7]23[H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2]1=[C:6]([H:14])[O:5][C@:4]2([H:13])[C:3]([H:11])([H:12])[C@:7]12[H:15])([H:8])([H:9])[H:10],84.66260098235841
[C:1]([C@@:2]([O:3][H:10])([C:4]#[C:5][H:11])[H:9])([H:6])([H:7])[H:8]>>[C:1]1([H:6])([H:7])[C@:2]([O:3][H:10])([H:9])[C:4]1=[C:5]([H:8])[H:11],95.47424139723049
[C:1]([O:5]/[C:4](=[C:2](/[O:3][H:11])[H:10])[N:6]([H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([O:3][H:11])([C:4](=[O:5])[N:6]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],64.29342318995
[C:1]([C:2]([C:3](=[O:4])[N:5]([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([O:4][C:3](=[C:2]([H:9])[H:10])[N:5]([H:11])[H:12])([H:6])([H:7])[H:8],103.003461781485
[C:1]([N:2]([C:4]1=[N:5][C@:3]1([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3]([C:4]#[N:5])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10],77.43034368251861
[O:1]([C:2]([C:3]([N:4]([C:5][O:6][H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],32.9343938706058
[N:1]([C@@:2]1([H:10])[N:3]=[N:4]/[C:5](=[N:6]\[H:11])[O:7]1)([H:8])[H:9]>>[N:1]([c:2]1[n:3][n:4][c:5]([N:6]([H:10])[H:11])[o:7]1)([H:8])[H:9],80.4066944364648
[O:1]=[C:2]([O:3][C:4]([C:5]#[N:6])([H:8])[H:9])[H:7]>>[C:5]=[N:6][H:9].[o+:1]1[c-:2]([H:7])[o:3][c:4]1[H:8],106.816510424125
[C:1]([C:2]1([H:10])[C:3]([H:11])([H:12])[C:4](=[O:5])[C:6]1([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([C:2][C:3]([C:4](=[O:5])[C:6]([H:10])([H:13])[H:14])([H:11])[H:12])([H:7])([H:8])[H:9],79.50202027230709
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([O:4][C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([O+:4]=[C-:5][O:6][H:14])[H:10])([H:7])([H:8])[H:9],76.5290098407357
[O:1]([C:2]1([C:5](=[O:6])[H:12])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7]>>[O:1]([C:2]([C:5]1([H:12])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])=[O:6])[H:7],98.43793014866579
